US04420424
(A) Z-Val-Tyr(But)-OBut
13 ml (approx. 0.1 mole) of N-ethylmorpholine and 22 g (107 mmoles) of dicyclohexylcarbodiimide are added at 0° C. to a solution in 150 ml of dimethylformamide of 33 g (0.1 mole) of H-Tyr(But)-OBut, 25.1 g (0.1 mole) of Z-Val-OH and 13.5 g of 1-hydroxybenzotriazole. The mixture is stirred for one hour at 0° C. and allowed to stand overnight at room temperature. The precipitate is filtered off and the filtrate is concentrated. The residue is partitioned between 300 ml of ethyl acetate and 300 ml of water. The ethyl acetate phase is extracted by shaking successively with 100 ml of saturated NaHCO3 solution, 100 ml of KHSO4 /K2SO4 solution, 100 ml of saturated NaHCO3 solution and 100 ml of water. After drying over Na2SO4 the solution is concentrated. The residue is triturated with petroleum ether, cooled and filtered off. Yield 31.2 g (60%), melting point 82°-83°, [α]D21 =-20.9° (c=1, methanol).

reactant | N-ethylmorpholine | approx. 0.1 mole, 13 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 107 mmoles, 22 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | H-Tyr(But)-OBut | 0.1 mole, 33 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C | C17H27NO3
reactant | Z-Val-OH | 0.1 mole, 25.1 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | 1-hydroxybenzotriazole | 13.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Z-Val-Tyr(But)-OBut | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C30H42N2O6
